US09145441B2
Compound 87a. (S)-3-[2-(1-Hydroxy-ethyl)-2-methyl-but-3-enoyl]-4-isopropyl-oxazolidin-2-one
A cooled (−78° C.) solution of (S)-4-isopropyl-3-((E)-2-methyl-but-2-enoyl)-oxazolidin-2-one (the enantiomer of the previously described compound 77a) (2.316 g, 10.962 mmol) in anhydrous dichloromethane (50 mL) was treated with a solution of titanium(IV) chloride (1 M, 12 mL, 11.510 mmol) in dichloromethane. After stirring the orange solution for 5 minutes, the mixture was treated with N,N-diisopropylethylamine (4.8 mL, 27.405 mmol). After stirring at −78° C. for 2 h, the purple solution was treated with acetaldehyde (4.3 mL, 76.374 mmol). After stirring at −78° C. for 1.5 h and at room temperature for 50 minutes, the reaction was quenched with a saturated solution of ammonium chloride (60 mL). The aqueous layer was extracted with dichloromethane. The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 100 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/diethyl ether 1:0 to 1:1 to afford the title compound (1.742 g, 62%) as a 1:1.13:1.85:2.60 mixture of diastereoisomers and as a yellow oil.

reactant | (S)-4-isopropyl-3-((E)-2-methyl-but-2-enoyl)-oxazolidin-2-one | C(C)(C)[C@@H]1N(C(OC1)=O)C(\C(=C\C)\C)=O | C11H17NO3
reactant | N,N-diisopropylethylamine | 27.405 mmol, 4.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetaldehyde | 76.374 mmol, 4.3 mL | C(C)=O | C2H4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | titanium(IV) chloride | 11.510 mmol, 1 M, 12 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (S)-3-[2-(1-Hydroxy-ethyl)-2-methyl-but-3-enoyl]-4-isopropyl-oxazolidin-2-one | 1.742 g, 62% | OC(C)C(C(=O)N1C(OC[C@@H]1C(C)C)=O)(C=C)C | C13H21NO4
